Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Palpitations

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with a history of tobacco and
polysubstance use (last cocaine use 4 days ago), who initially
presented to ___ with palpitations.

The patient states that at 11:15AM, he began experiencing a
thumping pressure lasting at least an hour while at work. EMS 
was
called and strip showed rates in the 150s. Patient reports he's
had previous episodes of palpitations that have never lasted 
more
than 30 minutes. Did not report jaw pain, headache, back  pain,
change in vision speech gait or mentation, recent travel, recent
surgery, and history of PE, DVT, or cancer. Did not note lower
extremity pain or swelling. Patient did not try any medications
at home for symptoms prior to arrival at the OSH, but reported
that EMS gave him a medication (Cardizem 20mg) that apparently
lowered his heart rate, but did not resolve his sensation of
palpitations or chest ache.

At the OSH, vitals initially were 96% on RA, BP 131/70, Temp
98.7, Pulse 82, Resp 14. He received Morphine Sulfate 2 MG,
Aspirin 325 MG, and Potassium Chloride ___ MEQ. ECG at OSH
reported as sinus rhythm. PR of 89. Wide QRS complex. Positive
delta wave consistent with ___. Labs notable for K 3.3, Cr 1.1,
AST 63, ALT 120, troponin T <0.03, TSH 1.1. Utox POSITIVE for
cocaine, cannabinoids, opiates (unclear if after receiving
morphine).

The decision was made to transfer the patient to ___ for
consideration of ablation for possible ___.

On arrival to the floor, the patient states that he is now
feeling fine. He was particularly concerned about the length of
time that he was having palpitations. Currently, does not report
fevers, chills, chest pain, shortness of breath, nausea,
vomiting, abdominal pain, lower extremity edema, and changes in
bowel or bladder habits.

REVIEW OF SYSTEMS: 10-point review of systems negative, except 
as
above.

 
Past Medical History:
- Prior palpitations, unknown prior diagnosis
- tobacco use disorder
- cocaine use disorder

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. Mother with hypertension. Uncle with
coronary artery disease. Grandfather with hypertension and
diabetes.

 
Physical Exam:
Admission PE:
VS: T 97.8 PO, BP 134 / 83, HR 67, RR 18, O2 sat 97 RA 
GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not appreciable.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
=
=
=
=
=
=
================================================================
Discharge PE:
VS: T: 97.6 F, BP: 119/70 mmHg supine, HR 50 bpm, RR 20/min,
O2: 98 % on RA.
Telemetry: Rate 50-61, sinus rhythm, short PR interval and delta 
wave
Gen: Patient is lying in bed, NAD. Pleasant, calm  
HEENT: NC/AT. 
NECK: Supple. No JVD
CV: RRR. normal S1,S2. No M/R/G
LUNGS: CTAB. No wheezes, rales, or rhonchi.  
ABD: Soft, NT, ND. +BS
Lower EXT: No edema, no erythema. 
 
Pertinent Results:
Admission/Discharge Labs:
___ 07:12AM BLOOD WBC-5.1 RBC-5.11 Hgb-14.3 Hct-45.0 MCV-88 
MCH-28.0 MCHC-31.8* RDW-13.3 RDWSD-43.1 Plt ___
___ 07:12AM BLOOD ___ PTT-25.0 ___
___ 07:12AM BLOOD Glucose-88 UreaN-15 Creat-1.0 Na-143 
K-4.6 Cl-107 HCO3-25 AnGap-11
___ 07:12AM BLOOD ALT-88* AST-33 AlkPhos-74 TotBili-0.8
___ 07:12AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.3
=
=
=
=
=
=
=
================================================================
TTE ___:
CONCLUSION:
The left atrium is mildly dilated. There is no evidence for an 
atrial septal defect by 2D/color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a
normal cavity size. There is normal regional and global left 
ventricular systolic function. Overall left ventricular systolic 
function is normal. Quantitative 3D volumetric left ventricular 
ejection fraction is 68 %. Left
ventricular cardiac index is normal (>2.5 L/min/m2). There is no 
resting left ventricular outflow tract gradient. No ventricular 
septal defect is seen. Tissue Doppler suggests a normal left 
ventricular filling pressure (PCWP less than 12mmHg). Normal 
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender with normal ascending 
aorta diameter for gender. The aortic arch diameter is
normal with a normal descending aorta diameter. There is no 
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. There is mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid regurgitation. The 
pulmonary artery systolic pressure could not be estimated. There 
is no pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal biventricular cavity sizes and regional/global 
biventricular systolic function. Mild mitral regurgitation. Mild 
tricuspid regurgitation. Indeterminate pulmonary artery systolic 
pressure.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: Mr. ___ is a ___ man with a 
history of tobacco and
cocaine use (last cocaine use 4 days ago), who initially 
presented to ___ with palpitations, with ECG 
concerning for ___. Transferred to ___ for EP eval and 
possible ablation.

CORONARIES: unknown
PUMP: unknown
RHYTHM: sinus, delta wave
 
# ___ syndrome
# Palpitations: The patient's palpitations, based on ECG read 
and
history, are most likely related to WPW. This is especially 
given
the fact that they are intermittent and there appears to be a
delta wave present on ECG. 
- TTE to evaluate for Ebstein's anomaly: Mild symmetric left 
ventricular hypertrophy with normal biventricular cavity sizes 
and regional/global biventricular systolic function. Mild mitral 
regurgitation. Mild tricuspid regurgitation. Indeterminate 
pulmonary artery systolic pressure.
- Discharge home with 2 weeks Ziopatch
- Ablation as outpatient in ___ weeks. 
- No medications for now
- can be discharged home today if echo is unremarkable per EP

# Polysubstance use disorder: Patient with active cocaine use
disorder given positive urine tox at OSH. This may predispose 
him
to future arrhythmias if ablation is not performed. Patient 
would
like assistance with drug problem.
- addiction social work consult: SW met with pt.

# Tobacco disorder
- smoking cessation counseling provided

# DISPO: Discharge home today. 
Pt has no money, clothes, coat or anyone to pick him up. SW 
arranged to have cab voucher to ___, cash for ticket 
to ___ and cab voucher from ___ to his home. 
SW also provided clothes and coat.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
No new medications started 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ syndrome
Palpitations
Polysubstance abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ from ___ with 
palpitations and you were found to be in ___ syndrome 
___. You have not had any palpitations since 
you were admitted here and Electrophysiology (EP) team decided 
to send you home today with a Zio Patch to monitor your heart's 
rhythm and come back in ___ weeks for ablation as outpatient. 

We did not start you on any new medications.

If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ HeartLine at ___ 
to speak to a cardiologist or cardiac nurse practitioner.  
 
 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team 
 
Followup Instructions:
___